US08748415B2
Step 1. Preparation of ((1R,3aS,5aR,5bR,7aR,9S,11aR,11bR,13aR,13bR)-9-hydroxy-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl benzoate
A suspension of (1R,3aS,5aR,5bR,7aR,9S,11aR,11bR,13aR,13bR)-3a-(hydroxymethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-9-ol (10 g, 22.59 mmol) and DMAP (0.552 g, 4.52 mmol) in pyridine (100 ml) was heated to 50° C. Upon heating all solids dissolved. To the solution was added benzoic anhydride (7.66 g, 33.9 mmol) portion wise (4 portions) over 1 h, each time rinsing the sides of the flask with 5 ml of pyridine. The clear, colorless solution was stirred at 50° C. for 4 h then was cooled to rt and concentrated under reduced pressure. The thick amber residue was diluted with sat. NaHCO3 (200 ml) and was extracted with dichloromethane (3×150 ml). The combined organic layers were dried with Na2SO4, the drying agent was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography using a 0-25% EtOAc in hexanes gradient to afford the title compound as a white foam (8.6 g, 15.73 mmol, 69.6% yield). 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 8.05 (d, J=7.02 Hz, 2H),7.55 (t, J=7.32 Hz, 1H), 7.44 (t, J=7.63 Hz, 2H), 4.71 (s, 1H), 4.60 (s, 1H), 4.51 (d, J=10.99 Hz, 1H), 4.09 (d, J=10.99 Hz, 1H), 3.15-3.21 (m, 1H), 2.52 (td, J=10.99, 5.80 Hz, 1H), 1.89-2.08 (m, 3H), 1.70 (s, 3H), 1.06 (s, 3H), 1.00 (s, 3H), 0.96 (s, 3H), 0.83 (s, 3H), 0.75 (s, 3H), 0.63-1.81 (m, 21H).

reactant | (1R,3aS,5aR,5bR,7aR,9S,11aR,11bR,13aR,13bR)-3a-(hydroxymethyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-9-ol | 22.59 mmol, 10 g | OC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)O)C)[C@@H](CC2)C(=C)C | C30H50O2
reactant | benzoic anhydride | 33.9 mmol, 7.66 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
catalyst | DMAP | 4.52 mmol, 0.552 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | ((1R,3aS,5aR,5bR,7aR,9S,11aR,11bR,13aR,13bR)-9-hydroxy-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl benzoate | 15.73 mmol, 8.6 g, 69.6% yield | C(C1=CC=CC=C1)(=O)OC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)O)C)[C@@H](CC2)C(=C)C | C37H54O3
